US07217697B2
4-(2-Benzyloxybenzyl)-3-(β-D-glucopyranosyloxy)-5-pentafluoroethyl-1H-pyrazole
To a solution of 4-(2-benzyloxybenzyl)-5-pentafluoroethyl-1,2-dihydropyrazol-3-one (55 mg) and acetobromo-α-D-glucose (63 mg) in acetonitrile (2 mL) was added potassium carbonate (23 mg), and the mixture was stirred at room temperature for 3 days. The reaction mixture was purified by column chromatography on aminopropyl silica gel (eluent: ethyl acetate/hexane=1/1-ethyl acetate) to give 4-(2-benzyloxybenzyl)-5-pentafluoroethyl-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole. To a solution of 4-(2-benzyloxybenzyl)-5-pentafluoroethyl-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole in tetrahydrofuran (1 mL) and methanol (0.5 mL) was added sodium methoxide (28% methanol solution, 50 μL), and the mixture was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=10/1-5/1) to give the title compound (33 mg).

reactant | 4-(2-benzyloxybenzyl)-5-pentafluoroethyl-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole | C(C1=CC=CC=C1)OC1=C(CC=2C(=NNC2C(C(F)(F)F)(F)F)O[C@H]2[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O2)COC(C)=O)C=CC=C1 | C33H33F5N2O11
reactant | sodium methoxide | 50 μL | C[O-].[Na+]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | methanol | 0.5 mL | CO | CH4O
product | 4-(2-Benzyloxybenzyl)-3-(β-D-glucopyranosyloxy)-5-pentafluoroethyl-1H-pyrazole | 33 mg | C(C1=CC=CC=C1)OC1=C(CC=2C(=NNC2C(C(F)(F)F)(F)F)O[C@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO)C=CC=C1 | C25H25F5N2O7
